US06645968B2
3,3-dimethyl-2-((2-methylbenzoyl)amino)butanoic acid
Racemic tert-butylglycine (502 mg, 3.83 mmol) was dissolved in water (10 mL) containing NaOH (153 mg, 3.83 mmol). This solution was cooled to 5° C. and treated with o-toluoyl chloride (0.501 mL, 3.83 mmol) followed by additional NaOH (153 mg, 3.83 mmol). The mixture was warmed to ambient temperature, stirred for 1.5 hours, recooled to 5° C., and treated with 1M HCl (pH 3). The thick precipitate that formed was collected by filtration and washed with cold water to provide 550 mg of the desired product as a white solid.

reactant | Racemic tert-butylglycine | 3.83 mmol, 502 mg | N[C@@H](C(C)(C)C)C(=O)O | C6H13NO2
reactant | NaOH | 3.83 mmol, 153 mg | [OH-].[Na+]
reactant | o-toluoyl chloride | 3.83 mmol, 0.501 mL | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
reactant | NaOH | 3.83 mmol, 153 mg | [OH-].[Na+]
reactant | HCl | 1M, pH 3 | Cl | ClH
solvent | water | 10 mL | O | H2O
product | 3,3-dimethyl-2-((2-methylbenzoyl)amino)butanoic acid | 550 mg | CC(C(C(=O)O)NC(C1=C(C=CC=C1)C)=O)(C)C | C14H19NO3
